US04563455
A solution of 2-chloromethyl-1-phenyl-1H-benzimidazole (3.4 g) and imidazole (4.8 g) in ethanol (25 ml) was stirred at 60° C for 7 hours. The reaction mixture was concentrated under reduced pressure to give an oil, which was diluted with water and extracted three times with dichloromethane. The combined extract was washed twice with water and once with brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (100 g) with a mixture of methanol and dichloromethane (3:97) as an eluent to afford an oil, which was crystallized from a mixture of ethyl acetate and hexane to give 2-(imidazol-1-yl)methyl-1-phenyl-1H-benzimidazole (2.65 g).

reactant | 2-chloromethyl-1-phenyl-1H-benzimidazole | 3.4 g | ClCC1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C14H11ClN2
reactant | imidazole | 4.8 g | N1C=NC=C1 | C3H4N2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-(imidazol-1-yl)methyl-1-phenyl-1H-benzimidazole | 2.65 g | N1(C=NC=C1)CC1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C17H14N4
